US07141583B2
(5R)-3-(4-((3R)-3-(2-Methoxyethoxycarbonylamino)pyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-((3R)-3-Aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-oxazolidin-2-one hydrochloride (200 mg, 0.52 mM) was suspended by stirring in dichloromethane (10 ml) at 0° and sodium bicarbonate solution (5 ml) added. 2-Methoxyethyl chloroformate (340 mg, 2.46 mM) was added, and the mixture stirred 4 hours, allowing the temperature to rise to ambient. The organic layer was separated, washed with sodium dihydrogen phosphate (2%, 2×15 ml), water (15 ml) and dried (magnesium sulfate). Filtration and evaporation gave the desired product (183 mg).

reactant | (5R)-3-(4-((3R)-3-Aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-oxazolidin-2-one hydrochloride | 0.52 mM, 200 mg | Cl.N[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
reactant | 2-Methoxyethyl chloroformate | 2.46 mM, 340 mg | ClC(=O)OCCOC | C4H7ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (5R)-3-(4-((3R)-3-(2-Methoxyethoxycarbonylamino)pyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 183 mg | COCCOC(=O)N[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C20H25FN6O5
